US07550598B2
(Z)-4-(4-(4-aminophenylthio)quinolin-2(1H)-ylidene)-3-cyclopropyl-1H-pyrazol-5(4H)-one
3-Cyclopropyl-3-oxo-propionic acid (0.5 g, 3.2 mmol) was stirred in ethanol and acetic acid (10:1, 2.2 mL) and treated with hydrazine (0.12 mL, 3.8 mmol). After 15 hrs, the solid was filtered off and washed with a minimum amount of ethanol. Then, the product (3-cyclopropyl-1H-pyrazol-5(4H)-one) (0.4 mmol) and 4-chloroquinoline N-oxide (0.087 g, 0.48 mmol) were stirred in acetic anhydride (1 mL) at ambient temperature for 20-30 minutes. The reaction mixture was concentrated and carried out to the next step with out any purification. The resulting (Z)-4-(4-chloroquinolin-2(1H)-ylidene)-3-cyclopropyl-1H-pyrazol-5(4H)-one was dissolved in ethanol (1.5 mL) and 4-acetamidothiophenol (0.076 g, 0.45 mmol) was added. The reaction mixture was heated to 180° C. using a microwave reactor for 30 minutes. The mixture was concentrated and purified by LC-MS to give the title compounds of Example 14 and Example 15.

reactant | 3-Cyclopropyl-3-oxo-propionic acid | 3.2 mmol, 0.5 g | C1(CC1)C(CC(=O)O)=O | C6H8O3
reactant | hydrazine | 3.8 mmol, 0.12 mL | NN | H4N2
reactant | 3-cyclopropyl-1H-pyrazol-5(4H)-one | C1(CC1)C1=NNC(C1)=O | C6H8N2O
reactant | 4-chloroquinoline N-oxide | 0.48 mmol, 0.087 g | ClC1=CC=[N+](C2=CC=CC=C12)[O-] | C9H6ClNO
reactant | 4-acetamidothiophenol | 0.45 mmol, 0.076 g | C(C)(=O)NC1=CC=C(C=C1)S | C8H9NOS
solvent | ethanol | C(C)O | C2H6O
solvent | acetic anhydride | 1 mL | C(C)(=O)OC(C)=O | C4H6O3
solvent | acetic acid | 2.2 mL | C(C)(=O)O | C2H4O2
product | (Z)-4-(4-(4-aminophenylthio)quinolin-2(1H)-ylidene)-3-cyclopropyl-1H-pyrazol-5(4H)-one | NC1=CC=C(C=C1)SC1=C/C(/NC2=CC=CC=C12)=C/1\C(=NNC1=O)C1CC1 | C21H18N4OS
